Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain, shortness of breath, GI bleed
 
Major Surgical or Invasive Procedure:
___ Diagnostic paracenteses
___ Large volume paracentesis
 
History of Present Illness:
___ with HCV/EtOH cirrhosis, HCC, papillary urothelial 
carcinoma, COPD, and thrombocytopenia who presented to ___ 
___ with abdominal pain and shortness of breath. The 
patient reports that over the past several days, he has been 
having worsening of his abdominal distention and pain, causing 
the difficulty breathing. He also reports coughing up sputum. He 
denies any fevers or chills. He denies any melena or blood in 
the stool. Denies any vomiting or hemoptysis.

At ___, he was found to have a significant Hct drop 
(20.4 on arrival from 35.8 on ___, was given octreotide, 
ceftriaxone, pantoprazole. CT scan demonstrated possible 
colitis, as well as gastric varices with possible blood in the 
stomach. He was broadened to Zosyn. Given 1U pRBCs and 
transferred to ___ for further management.

Of note, recently admitted (___) to ___ for 
abdominal pain, found to have right-sided colitis. Treated with 
10 days of cipro and flagyl. Underwent paracentesis with 3L 
removed.
  
In ED initial VS:  97.6 122 123/82 18 97% RA 
Exam:  Distended abdomen, diffusely tender. Heme positive stool.
Labs significant for:  
WBC 19.4, H/H 6.4/20.4, plts 113
Na 128, BUN/Cr 35/0.74, Ca 7.8, trop 0.03, CKMB 5.9
Acetaminophen < 10
AST/ALT 81/41, Alk phos 127, T bili 2.0, alb 1.8
___ 19, 1.55; PTT 31
Ethanol 0.081%
Lipase 49
Dx para: 126 WBCs, 45.3 PMNs, <10k RBCs
Patient was given:  2U pRBCS, IV pantoprazole, octreotide, 
ceftriaxone, zosyn
Imaging notable for:  CXR WNL, CT abd/pel with contrast showing 
nodular liver, ?colitis, stomach distended with high density 
material in the stomach, multiple gastric varices, moderate 
ascites
Consults:  none
VS prior to transfer: 97.2, 116, 123/76, 14, 96% RA 
  
On arrival to the MICU, reports having significant abdominal 
pain that improved with morphine in ED. Otherwise only 
complaining of being thirsty. Feels better with O2 on (though NC 
not connected to wall O2 unit). Denies N/V/D, fever/chills. Some 
lightheadedness with standing. Endorses abd pain.

 
Past Medical History:
Urinary bladder neoplasm   
Alcohol use disorder 
Cirrhosis
Hemangioma of liver  
Hepatitis C
COPD 
Depression
Hypertension 
Pancytopenia 
Polysubstance abuse  
Tobacco use 
 
Social History:
___
Family History:
Mother - CHF
Father - lung cancer (smoker)
Brothers - CAD, EtOH
Nephew - lymphoma
 
Physical ___:
ADMISSION:

PHYSICAL EXAM:  
VITALS:  T 97.6, BP 142/72, HR 127, RR 21, SpO2 91%/RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera mildly icteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: diffuse expiratory wheezing and faint ronchi  
CV: regular, tachycardic, S1+S2, II/VI systolic murmur heard 
throughout  
ABD: distended, tense, dull to percussion. No TTP, no rebound or 
guarding.
EXT: Warm, well perfused, 2+ pulses. 1+ edema in ___ b/l.  
SKIN:  no jaundice
NEURO:  alert, oriented, no asterixis

DISCHARGE:
VS:  98.3 129/75 99 18 95 Ra 
GENERAL: pleasant alert 
HEENT: AT/NC, EOMI, PERRL, +mild icteric sclerae,
telengectasias on nose
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, +S1/S2, no murmurs, gallops, or rubs  
LUNGS: good effort. diffuse end expiratory wheezes improving, no
rales, rhonchi, breathing comfortably without use of accessory
muscles  
ABDOMEN: Distended and firm this morning, +BS, nontender in
all quadrants, no rebound/guarding, no hepatosplenomegaly.
urostomy bag present in RLQ draining clear yellow fluid.  
EXTREMITIES: no edema, moving all 4 extremities with purpose
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, no asterixis 
SKIN: Warm and well perfused, no palmar erythema

 
Pertinent Results:
LABS UPON ADMISSION:

___ 10:03PM BLOOD WBC-23.9* RBC-2.19* Hgb-7.6* Hct-23.1* 
MCV-106* MCH-34.7* MCHC-32.9 RDW-20.6* RDWSD-75.7* Plt ___
___ 04:24AM BLOOD Glucose-120* UreaN-52* Creat-0.9 Na-133* 
K-5.6* Cl-94* HCO3-15* AnGap-24*
___ 04:24AM BLOOD ALT-133* AST-372* AlkPhos-127 
TotBili-4.4*
___ 04:24AM BLOOD Albumin-2.1* Calcium-7.8* Phos-5.1* 
Mg-1.8
___ 06:59AM BLOOD ___ pO2-24* pCO2-41 pH-7.29* 
calTCO2-21 Base XS--7 Intubat-NOT INTUBA Vent-SPONTANEOU
___ 05:41AM BLOOD Lactate-10.7*

LABS UPON DISCHARGE:

OTHER LABS:

___ 05:41AM BLOOD Lactate-10.7*
___ 06:59AM BLOOD Lactate-10.1* K-5.3*
___ 12:54PM BLOOD Lactate-7.2*
___ 11:21PM BLOOD Lactate-2.5*
___ 05:31AM BLOOD Lactate-1.9
___ 08:06PM BLOOD Lactate-4.5*
___ 08:35AM BLOOD Lactate-1.6

IMAGING:
CXR ___
IMPRESSION:  
Heart size is normal.  Mediastinum is normal. Left retrocardiac 
consolidation and right basal consolidation have substantially 
increased since the previous examination concerning for 
infection or aspiration.  Atelectasis is less likely. 

MRPC ___
IMPRESSION: 
1. Cirrhotic liver morphology with multifocal hepatocellular 
carcinoma. 
2. Previously identified cystic duct stone not well seen on MRI. 
 No MR 
evidence of cholangitis. 
3. Gallbladder is mildly distended with sludge and wall edema, 
findings are nonspecific and could be related to third spacing 
or chronic liver disease, although especially in the setting of 
a cystic duct stone, acutecholecystitis could have a similar 
appearance. 
4. Sequela of portal hypertension with large volume ascites, 
splenomegaly, and varices. 

ECHO ___
The left atrial volume index is normal. The right atrium is 
moderately dilated. Late saline contrast is seen in left heart 
suggesting intrapulmonary shunting. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Mild intrapulmonary shunting. Normal global and 
regional biventricular systolic function. Mild pulmonary 
hypertension.  

Discharge Labs
___ 05:46AM BLOOD WBC-8.2 RBC-2.68* Hgb-8.9* Hct-27.7* 
MCV-103* MCH-33.2* MCHC-32.1 RDW-18.8* RDWSD-70.8* Plt Ct-58*
___ 05:46AM BLOOD Glucose-105* UreaN-19 Creat-0.7 Na-134* 
K-4.4 Cl-98 HCO3-25 AnGap-___RIEF HOSPITAL COURSE
=====================
___ with HCV/EtOH cirrhosis, HCC, papillary urothelial 
carcinoma, COPD, and thrombocytopenia who presented to ___ 
___ with abdominal pain and shortness of breath with 
significant H/H drop. 

ACTIVE ISSUES:
=============
#ANEMIA
#UPPER GI BLEED
Pt admitted due to concern for GI bleed. Hb dropped during 
hospitalization and patient had episode of melena. EGD was 
performed and showed 1 ___ of grade 11 varices with recent 
stigmata of bleeding and portal gastropathy, that was banded. He 
was treated with IV octreotide, IV PPI, and IV ceftriaxone. He 
remained hemodynamically stable since his procedure. He was 
switched to PO Pantoprazole 40mg daily at the time of discharge.

#ABDOMINAL PAIN
#ABNORAL LFTS
#C DIFF COLITIS
LFTs upon admission with t bili of 4.4 (direct predominant) and 
ALT 133, AST 372. Pt with recent admission for colitis at OSH. 
Repeat CT upon transfer was concerning for colitis and revealed 
a stone in the CBD. Pt likely with component of alcoholic 
hepatitis, but given concern for cholangitis with stone in CBD 
on imaging, zosyn was initiated. MRCP revealed no stone in the 
CBD, and LFTs downtrended, so it was thought that stone likely 
passed. After MRCP, zosyn was changed to ceftriaxone to complete 
course for infection ppx in setting of bleed (7 day course). 
Because of our concern for colitis, C diff was sent and was 
positive so patient was initiated on PO vanc, and ceftriaxone 
was discontinued on ___. His PO lactulose was continued given 
his ongoing abdominal pain and fatigue.

#HYPOXIA
#COPD EXACERBATION
Patient with brief O2 requirement up to 6 L. A LVP was performed 
and hypoxia improved. Because of hypoxia, smoking history and 
wheezing on exam, azithromycin and predisone were initiated to 
complete a five day course for COPD exacerbation on ___. An 
echo with bubble was ordered and revealed mild intrapulmonary 
shunting. 

#CIRRHOSIS:
#Hepatitis C virus:
#ASCITES: 
Childs class C, MELD-Na 21. EtOH and HCV cirrhosis. HCV has not 
been treated. EtOH use ongoing. Has history of ascites and 
hepatic encephalopathy. Noted to have gastric varcies on CT abd 
back in early ___, started on nadolol at that time (though 
now currently is on metoprolol succinate 50mg daily). Diagnostic 
paracenteses was w/o SBP. He underwent and LVP during admission. 
EGD was notable for 1 cord of grade II varices in the lower 
esophagus a well as portal gastropathy. He was restarted on his 
PO diuretics when more hemodynamically stable as well as 
nadolol.

#ETOH ABUSE
Pt with ETOH abuse at home. Pt started on CIWA upon admission, 
but was not scoring. 

=======================
TRANSITIONAL ISSUES:
=======================
MEDICATIONS:
NEW
Pantoprazole 40 mg PO Q24H for 1 month 
Sucralfate 1 gm PO QID for 10 days total (complete on ___
Metronidazole 500 mg TID for 1 week (complete on ___
Nadolol 40 mg qd

SAME
Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, wheezing 
FoLIC Acid 1 mg PO DAILY 
Furosemide 20 mg PO DAILY 
Lactulose 30 mL PO BID 
Spironolactone 50 mg PO DAILY 
Thiamine 100 mg PO DAILY 
Tiotropium Bromide 1 CAP IH DAILY

FOLLOW-UP
- Follow up: PCP, ___

OTHER ISSUES:
- Hemoglobin prior to discharge: 8.9
- Platelets prior to discharge: 58
- Cr at discharge: 0.7
- MELD on discharge: 10
- Antibiotic course at discharge: PO Vancomycin Q 6H until ___
- Please follow up with hepatology regarding the patient's 
recent diagnosis of HCC at ___ as well as HCV and 
cirrhosis.
- He will need continued discussion regarding smoking and ETOH 
use as an outpatient.

# CONTACT: ___ ___
# CODE: FC
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, wheezing 
3. Furosemide 20 mg PO DAILY 
4. Spironolactone 50 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Lactulose 30 mL PO BID 
7. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*18 Tablet Refills:*0 
2.  Nadolol 40 mg PO DAILY 
RX *nadolol 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Sucralfate 1 gm PO QID 
RX *sucralfate 1 gram 1 tablet(s) by mouth four times a day Disp 
#*20 Tablet Refills:*0 
5.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB, wheezing  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Lactulose 30 mL PO BID  
9.  Spironolactone 50 mg PO DAILY  
10.  Thiamine 100 mg PO DAILY  
11.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
=================
1. Variceal Bleed
2. Alcoholic Hepatitis
3. C. difficile Colitis
4. Chronic obstructive pulmonary disease Exacerbation

Secondary Diagnosis:
====================
1. Hepatocellular carcinoma
2. Chronic hepatitis C virus
3. History of bladder cancer s/p TURPT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ because you had abdominal pain. Please see 
more details listed below about what happened while you were in 
the hospital and your instructions for what to do after leaving 
the hospital.

It was a pleasure participating in your care. We wish you the 
best!

===================================
WHAT HAPPENED AT THE HOSPITAL? 
===================================
-You had a bleed in your stomach from a vein. You had a 
laparoscopic procedure to stop the bleeding and you felt better.
-You had 3 blood transfusions because you had low blood counts 
from your bleed
-You were also found to have an infection in your intestines 
called "C. diff" which was treated with an antibiotic. 
-Finally, you were feeling short of breath and you were found to 
worsening COPD 

==================================================
WHAT NEEDS TO HAPPEN WHEN YOU LEAVE THE HOSPITAL? 
==================================================
-Please continue taking all of your medications and follow up 
with your doctor's appointments
-Please contact us if you are feeling any more pain, nausea or 
vomiting, or any symptoms that concern you

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___